US08314088B2
3-(morpholin-4-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine
A mixture of 8-benzyl-3-(morpholin-4-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine (259 mg), 20% Pd(OH)2/C (300 mg) and methanol (2 mL) was stirred under a hydrogen atmosphere at 50° C. for 2 hr. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (solvent gradient; 0→10% methanol/ethyl acetate) and recrystallized (ethyl acetate-hexane) to give the title compound (54.1 mg, 29%) as colorless crystals.

reactant | 8-benzyl-3-(morpholin-4-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 259 mg | C(C1=CC=CC=C1)N1CCOC2=C(C1)N=CC(=N2)N2CCOCC2 | C18H22N4O2
catalyst | Pd(OH)2/C | 300 mg | [OH-].[OH-].[Pd+2]
solvent | methanol | 2 mL | CO | CH4O
product | 3-(morpholin-4-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 54.1 mg, 29% | N1(CCOCC1)C1=NC2=C(CNCCO2)N=C1 | C11H16N4O2
